US09163027B2
(2-{4-[2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)ethoxy]phenyl}ethyl)-dimethylamine
The title compound was prepared according to the experimentals described for Example 31 above from of 2-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl sulfanyl)ethan-1-ol and N,N-dimethyltyramine in 48% yield; EM (calc.): 371.2; MS (ESI) m/e: 372.2 (M+H)+.

reactant | 2-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl sulfanyl)ethan-1-ol | CC1=NC=2N(C(=C1)C)N=C(N2)SCCO | C9H12N4OS
reactant | N,N-dimethyltyramine | CN(CCC1=CC=C(C=C1)O)C | C10H15NO
product | (2-{4-[2-({5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}sulfanyl)ethoxy]phenyl}ethyl)-dimethylamine | 48% yield | CC1=NC=2N(C(=C1)C)N=C(N2)SCCOC2=CC=C(C=C2)CCN(C)C | C19H25N5OS
